US05593993
To a solution of 0.20 g (0.8 mmol) of 3-(2-hydroxyethyl)-6-chloro-2-methoxypyridine in 10 ml of dry CH2Cl2 cooled to -50° C. was added 0.18 ml (0.8 mmol) trifluoromethanesulfonic anhydride under an atmosphere of nitrogen. The mixture was stirred for 30 min at this temperature and an additional 10 min at -78° C. before a rapid addition of 30 ml of cold (-78° C.) NH3 (l). The mixture was stirred for 15 min at room temperature, and then concentrated in vacuo to afford 1.0 g of crude 3-(2-aminoethyl)-6-chloro-2-methoxypyridine as a trifluoromethanesulfonic acid salt.

reactant | 3-(2-hydroxyethyl)-6-chloro-2-methoxypyridine | 0.8 mmol, 0.20 g | OCCC=1C(=NC(=CC1)Cl)OC | C8H10ClNO2
reactant | trifluoromethanesulfonic anhydride | 0.8 mmol, 0.18 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-aminoethyl)-6-chloro-2-methoxypyridine | 1.0 g | NCCC=1C(=NC(=CC1)Cl)OC | C8H11ClN2O
